US08614206B2
In a microwave reaction vial, tert-butyl N-[4-[[5-[(4S)-4-(benzyloxycarbonylamino)azepan-1-yl]-1-methyl-pyrazol-4-yl]carbamoyl]-2-bromo-thiazol-5-yl]carbamate (200 mg, 0.31 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ol (205 mg, 0.93 mmol) and PDCL2(DPPF) (23 mg, 0.031 mmol) were dissolved in acetonitrile (8 mL). Potassium acetate (1.0M, 0.46 mL, 0.46 mmol) was sodium carbonate (1.0M, 0.46 mL, 0.46 mmol) were added and the mixture was irradiated with a microwave for 30 min at 120° C. The mixture was cooled, filtered through Na2SO4 and Celite, concentrated and purified via flash chromatography, methanol/DCM 0% to 10% to afford tert-butyl N-[4-[[5-[(4S)-4-(benzyloxycarbonylamino)azepan-1-yl]-1-methyl-pyrazol-4-yl]carbamoyl]-2-(6-hydroxy-2-pyridyl)thiazol-5-yl]carbamate.

reactant | tert-butyl N-[4-[[5-[(4S)-4-(benzyloxycarbonylamino)azepan-1-yl]-1-methyl-pyrazol-4-yl]carbamoyl]-2-bromo-thiazol-5-yl]carbamate | 0.31 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CCN(CCC1)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)Br | C27H34BrN7O5S
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ol | 0.93 mmol, 205 mg | CC1(OB(OC1(C)C)C1=CC=CC(=N1)O)C | C11H16BNO3
reactant | Potassium acetate | 0.46 mmol, 1.0M, 0.46 mL | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 0.46 mmol, 1.0M, 0.46 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
catalyst | PDCL2(DPPF) | 0.031 mmol, 23 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | tert-butyl N-[4-[[5-[(4S)-4-(benzyloxycarbonylamino)azepan-1-yl]-1-methyl-pyrazol-4-yl]carbamoyl]-2-(6-hydroxy-2-pyridyl)thiazol-5-yl]carbamate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CCN(CCC1)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)C1=NC(=CC=C1)O | C32H38N8O6S
